US06812236B2
1-Hexanoyl-3,4-dimethyl-4-(3-hydroxyphenyl)-piperidine
To a stirred solution of 3,4-dimethyl-4-(3-hydroxyphenyl)piperidine (3.8 g, 18.6 mmol, J. Org. Chem., 1991, 56, 1660) in dichloromethane (30 mL) at 0° C. was added triethylamine (3.9 mL, 27.8 mmol) followed by the dropwise addition of hexanoic anhydride (4.7 mL, 20.4 mmol) over 5 minutes. The reaction was stirred under a nitrogen atmosphere for 3 hours at room temperature and then quenched by the addition of saturated aqueous sodium hydrogencarbonate (50 mL). The two layers were separated and the aqueous layer was extracted with dichloromethane (3×50 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with ethyl acetate:hexane (1:1). The title compound was obtained as a clear oil (4.5 g).

reactant | 3,4-dimethyl-4-(3-hydroxyphenyl)piperidine | 18.6 mmol, 3.8 g | CC1CNCCC1(C1=CC(=CC=C1)O)C | C13H19NO
reactant | triethylamine | 27.8 mmol, 3.9 mL | C(C)N(CC)CC | C6H15N
reactant | hexanoic anhydride | 20.4 mmol, 4.7 mL | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-Hexanoyl-3,4-dimethyl-4-(3-hydroxyphenyl)-piperidine | C(CCCCC)(=O)N1CC(C(CC1)(C1=CC(=CC=C1)O)C)C | C19H29NO2
